US04319033
The method of Example 4 was followed, using butyroin (12 g), propane-1,2-dithiol (9 g) and p-toluenesulfonic acid (0.5 g). 2,3-Dihydro-2-methyl-5,6-dipropyl-1,4-dithiin was obtained as a greenish liquid, boiling range 76°-85°/0.055 mm, yield 7.5 g (35%). NMR (CDCl3) 0.92 δ (triplet), 1.25-2.4 δ (complex overlapping doublet, multiplet, and quartet) 2.6-3.6 δ (complex multiplet).

reactant | butyroin | 12 g | CCCC(C(O)CCC)=O | C8H16O2
reactant | propane-1,2-dithiol | 9 g | C(C(C)S)S | C3H8S2
reactant | p-toluenesulfonic acid | 0.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 2,3-Dihydro-2-methyl-5,6-dipropyl-1,4-dithiin | CC1SC(=C(SC1)CCC)CCC | C11H20S2
